US07432291B2
A solution of 201 mg (0.847 mmol) 3-Fluoro-4-(2-[1,2,3]triazol-1-yl-ethoxylmethyl)-phenol in 5 ml dimethylformamide was treated with 22.5 mg ( 0.890 mmol) 95% sodium hydride and stirred at room temperature for 20 min, then 257 mg (0.847 mmol) 4-chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole were added and stirring continued for 14 h. After addition of water, the precipitate was isolated, washed thoroughly with water, twice with ether and dried to give 1-[2-(2-fluoro-4-{2-[2-(E)-(4-trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzyloxy)-ethyl]-1H-[1,2,3]triazole.

reactant | 3-Fluoro-4-(2-[1,2,3]triazol-1-yl-ethoxylmethyl)-phenol | 0.847 mmol, 201 mg | FC=1C=C(C=CC1COCCN1N=NC=C1)O | C11H12FN3O2
reactant | sodium hydride | 0.890 mmol, 22.5 mg | [H-].[Na+]
reactant | 4-chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole | 0.847 mmol, 257 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO2
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[2-(2-fluoro-4-{2-[2-(E)-(4-trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzyloxy)-ethyl]-1H-[1,2,3]triazole | FC1=C(COCCN2N=NC=C2)C=CC(=C1)OCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)OC(F)(F)F | C24H20F4N4O4
